US08168833B2
To a suspension of 3-phenylpropionic acid (455 mg, 3 mmol, Aldrich), in toluene (2 mL) at RT was slowly added thionyl chloride (0.44 mL, 6 mmol, 2 eq., Aldrich). DMF (2 drops) was added and the solution was stirred at RT for 1 h. The reaction mixture was concentrated under reduced pressure and the residue was dissolved in CH2Cl2 (5 mL). Diethylamine (0.78 mL, 7.5 mmol, 2.5 eq., Aldrich) was added dropwise to the CH2Cl2 solution at 0° C. and the reaction mixture was warmed and stirred at RT for 30 min. After evaporation under reduced pressure, the resulting residue was sequentially treated with H2O (5 mL) and EtOAc (5 mL). The organic and aqueous layers were separated and the aqueous layer was extracted with EtOAc (2×5 mL). The combined organic layers were washed with brine, dried with MgSO4 and concentrated under reduced pressure. Purification of the residue was performed using a short silica gel column (silica gel 60, 230-400 mesh) with EtOAc/hexanes as eluent. N,N-diethyl-3-phenylpropanamide (608 mg, 99% yield) was obtained as a colorless oil. Further purification using flash column chromatography was deemed unnecessary. 1H NMR (400 MHz, CDCl3) δ ppm: 7.34-7.14 (m, 5H), 3.38 (q, J=7.09 Hz, 2H), 3.22 (q, J=7.12 Hz, 2H), 2.98 (t, J=7.92 Hz, 2H), 2.59 (t, J=7.90 Hz, 2H), 1.16-1.03 (m, 6H); 13C NMR (101 MHz, CDCl3) δ ppm: 171.16, 141.51, 128.37, 128.35, 125.97, 41.81, 40.13, 35.01, 31.59, 14.20, 13.01.

reactant | 3-phenylpropionic acid | 3 mmol, 455 mg | C1(=CC=CC=C1)CCC(=O)O | C9H10O2
reactant | thionyl chloride | 6 mmol, 0.44 mL, 2 eq. | S(=O)(Cl)Cl | Cl2OS
reactant | Diethylamine | 7.5 mmol, 0.78 mL, 2.5 eq. | C(C)NCC | C4H11N
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
product | N,N-diethyl-3-phenylpropanamide | 608 mg, 99% yield | C(C)N(C(CCC1=CC=CC=C1)=O)CC | C13H19NO
